US04134983
A solution of crude 2-[4-(3-tert-butylamino-2-hydroxypropoxy)phenyl]-4-carboxyimidazole (30 g.) in methanol (600 ml.) is heated to reflux, and then heating is discontinued as hydrogen chloride is bubbled rapidly through the solution with stirring for a half hour, followed by two and a half hours at reflux. Bubbling of hydrogebn chloride is continued for another two hours followed by another hour at reflux and then the reaction mixture is stirred at room temperature overnight. The mixture is filtered and the filtrate is then concentrated to dryness under reduced pressure. The residue is dissolved in water (150 ml.) and the pH is adjusted to 8 with saturated sodium carbonate solution. The basic mixture is extracted with ethyl acetate and the extracts are dried, filtered, and concentrated under reduced pressure to yield a solid which is recrystallized from acetonitrile to yield the methyl 2-[4-(3-tert.butylamino-2-hydroxypropoxy)phenyl]-imidazole-4-carboxylate as a cream-colored solid, m.p. 168-172° C.

reactant | 2-[4-(3-tert-butylamino-2-hydroxypropoxy)phenyl]-4-carboxyimidazole | 30 g | C(C)(C)(C)NCC(COC1=CC=C(C=C1)C=1NC=C(N1)C(=O)O)O | C17H23N3O4
reactant | hydrogen chloride | Cl | ClH
reactant | methanol | 600 ml | CO | CH4O
product | methyl 2-[4-(3-tert.butylamino-2-hydroxypropoxy)phenyl]-imidazole-4-carboxylate | C(C)(C)(C)NCC(COC1=CC=C(C=C1)C=1NC=C(N1)C(=O)OC)O | C18H25N3O4
